US06297241B1
3[-(5-Chloro-2-hydroxyphenyl)methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H-one
A solution of 3-[(5-chloro-2-hydroxyphenyl)methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one (740 mg, 2 mmol), p-nitrophenyl chloroformate (407 mg, 2.02 mmol), and pyridine (330 mg, 4.17 mmol) in anhydrous dichloromethane (20 mL) was stirred at room temperature for three hours. The corresponding aminoacid tert-butyl ester (2 mmol) and anhydrous triethylamine (405 mg, 4 mmol) were added and the resulting reaction mixture was stirred at room temperature overnight. After evaporation, the residue was partitioned between diethylether and dilute NaOH. The organic layer was washed with water, dilute HCl, and brine, and then dried over magnesium sulfate. The crude product was purified by either trituration or recrystallization. The tert-butyl ester was stirred in dichloromethane (5 mL) with trifluoroacetic acid (1 mL) at room temperature overnight. After evaporation of CH2Cl2 and excess TFA, the residue was recrystallized from benzene-acetone to afford pure desired product.

reactant | 3-[(5-chloro-2-hydroxyphenyl)methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one | 2 mmol, 740 mg | ClC=1C=CC(=C(C1)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O)O | C16H10ClF3N2O3
reactant | p-nitrophenyl chloroformate | 2.02 mmol, 407 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 4.17 mmol, 330 mg | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 4 mmol, 405 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3[-(5-Chloro-2-hydroxyphenyl)methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol | ClC=1C=CC(=C(C1)CN1COC(=N1)C1=CC=C(C=C1)C(F)(F)F)O | C16H12ClF3N2O2
